US05958944
10% Palladium hydroxide carbon (100 mg) was added to a mixture of (R)-N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-(1-benzyloxycarbonylaminoethyl)benzamide (300 mg), 15% hydrochloric acid-methanol (3 ml) and methanol (14 ml), and the mixture was stirred in a stream of hydrogen at 40° C. for 1 hour. After the reaction, the catalyst was removed by filtration, and the mixture was concentrated under reduced pressure. The obtained crystals were recrystallized from methanol-ether to give 120 mg of (R)-(+)-N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-(1-aminoethyl)benzamide dihydrochloride monohydrate having a melting point of 259° C. (dec.).

reactant | (R)-N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-(1-benzyloxycarbonylaminoethyl)benzamide | 300 mg | N1N=CC=2C1=NC=CC2NC(C2=CC=C(C=C2)[C@@H](C)NC(=O)OCC2=CC=CC=C2)=O | C23H21N5O3
reactant | hydrochloric acid methanol | 3 ml | Cl.CO
reactant | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide carbon | 100 mg | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
solvent | methanol | 14 ml | CO | CH4O
product | (R)-(+)-N-(1H-pyrazolo[3,4-b]pyridin-4-yl)-4-(1-aminoethyl)benzamide dihydrochloride monohydrate | 120 mg | O.Cl.Cl.N1N=CC=2C1=NC=CC2NC(C2=CC=C(C=C2)[C@@H](C)N)=O | InChI=1S/C15H15N5O.2ClH.H2O/c1-9(16)10-2-4-11(5-3-10)15(21)19-13-6-7-17-14-12(13)8-18-20-14;;;/h2-9H,16H2,1H3,(H2,17,18,19,20,21);2*1H;1H2/t9-;;;/m1.../s1
